US04753933
Tris(3,6-dioxaheptyl)amine (1.47 g), pulverized potassium hydroxide (80% pure, 6.75 g) and morpholinoethanol (12 g) are added to a suspension of 2-amino-7-chloro-1,8-naphthyridine (16.2 g) in chlorobenzene (450 cc). The mixture is brought to 120° C. and maintained at this temperature for 3 hours. The suspension obtained after cooling is separated by filtration. The separated product is washed with chlorobenzene (3×50 cc) and water (3×50 cc). The solid obtained is redissolved in methylene chloride (400 cc). The insoluble material which remains is removed by filtration. The filtrate is dried over magnesium sulphate and concentrated to dryness at 40° C. under reduced pressure (4 kPa). The crude product obtained (23.5 g; m.p. 164° C.) is stirred in the presence of isopropyl ether (100 cc), filtered and dried at 30° C. under reduced pressure (0.07 kPa). 2-Amino-7-(2-morpholinoethoxy)-1,8-naphthyridine (13.9 g), m.p. 164° C., is obtained.

reactant | potassium hydroxide | 6.75 g | [OH-].[K+]
reactant | morpholinoethanol | 12 g | O1CCN(CC1)C(C)O | C6H13NO2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 16.2 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | isopropyl ether | 100 cc | C(C)(C)OC(C)C | C6H14O
solvent | chlorobenzene | 450 cc | ClC1=CC=CC=C1 | C6H5Cl
solvent | methylene chloride | 400 cc | C(Cl)Cl | CH2Cl2
catalyst | Tris(3,6-dioxaheptyl)amine | 1.47 g | C(COCCOC)N(CCOCCOC)CCOCCOC | C15H33NO6
product | 2-Amino-7-(2-morpholinoethoxy)-1,8-naphthyridine | 13.9 g | NC1=NC2=NC(=CC=C2C=C1)OCCN1CCOCC1 | C14H18N4O2
